US06017675
Analogously to the preparation of Example 1, 14.4 g (0.07 mol) of α-hydroxyimino-3,4-dimethoxybenzyl cyanide are reacted at room temperature with 26.56 g (0.077 mol) of 4-dodecylbenzenesulfonyl chloride in 100 ml of tetrahydrofuran in the presence of 10.6 g (0.105 mol) of triethylamine. For working-up, the reaction mixture is poured into water and extracted several times with methylene chloride. After drying over magnesium sulfate, the solvent is distilled off in a rotary evaporator. The brown oil that remains is then purified by flash chromatography on silica gel (eluant: petroleum ether/ethyl acetate 3:1). 14.75 g (41%) of α-(4-dodecylphenylsulfonyloxyimino)-3,4-dimethoxybenzyl cyanide are obtained in the form of a viscous yellow oil. The 1H-NMR spectrum shows that it is the (syn) isomer. The UV/Vis spectrum (acetonitrile) shows an absorption band at 350 nm (ε=10700) that extends to 435 nm. Elemental analysis: C28H38N2O5S

reactant | α-hydroxyimino-3,4-dimethoxybenzyl cyanide | 0.07 mol, 14.4 g | ON=C(C1=CC(=C(C=C1)OC)OC)C#N | C10H10N2O3
reactant | 4-dodecylbenzenesulfonyl chloride | 0.077 mol, 26.56 g | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)Cl | C18H29ClO2S
reactant | triethylamine | 0.105 mol, 10.6 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | α-(4-dodecylphenylsulfonyloxyimino)-3,4-dimethoxybenzyl cyanide | 14.75 g, 41% | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)ON=C(C1=CC(=C(C=C1)OC)OC)C#N | C28H38N2O5S
